US09422285B2
rac-2-Amino-5,5,5-trifluoro-2-methylpentanonitrile
8.0 g (57.1 mmol) of 5,5,5-trifluoropentan-2-one [CAS Registry Number: 1341078-97-4; commercially available, or the methyl ketone can be prepared by literature methods which are known to those skilled in the art, for example via a) two stages from 4,4,4-trifluorobutanal according to Y. Bai et al. Angewandte Chemie 2012, 51, 4112-4116; K. Hiroi et al. Synlett 2001, 263-265; K. Mikami et al. 1982 Chemistry Letters, 1349-1352; b) or from 4,4,4-trifluorobutanoic acid according to A. A. Wube et al. Bioorganic and Medicinal Chemistry 2011, 19, 567-579; G. M. Rubottom et al. Journal of Organic Chemistry 1983, 48, 1550-1552; T. Chen et al. Journal of Organic Chemistry 1996, 61, 4716-4719. The product can be isolated by distillation or chromatography] were initially charged in 47.8 ml of 2 N ammonia in methanol, 3.69 g (75.4 mmol) of sodium cyanide and 4.03 g (75.4 mmol) of ammonium chloride were added at room temperature and the mixture was stirred under reflux for 4 hours. The reaction mixture was cooled, diethyl ether was added and the solids present were filtered off. The solvent was distilled out of the filtrate under standard pressure. 8.7 g of the title compound (92% of theory) were obtained as residue, which was used in the subsequent stage without further purification.

reactant | 5,5,5-trifluoropentan-2-one | 57.1 mmol, 8.0 g | FC(CCC(C)=O)(F)F | C5H7F3O
reactant | 4,4,4-trifluorobutanal | FC(CCC=O)(F)F | C4H5F3O
reactant | 4,4,4-trifluorobutanoic acid | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | sodium cyanide | 75.4 mmol, 3.69 g | [C-]#N.[Na+]
reactant | ammonium chloride | 75.4 mmol, 4.03 g | [Cl-].[NH4+]
reactant | methanol | CO | CH4O
solvent | ammonia | 2 N, 47.8 ml | N | H3N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methyl ketone | CC(=O)C | C3H6O
product | rac-2-Amino-5,5,5-trifluoro-2-methylpentanonitrile | 8.7 g, 92% | NC(C#N)(CCC(F)(F)F)C | C6H9F3N2
